data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,10017,"CCC[C:1](C(O)C1=CC=C([N+](=O)[O-])C=C1)([H:2])[C:3](C1=C(O)C=CC(Br)=C1)=[N+:4]1CCCC1C1=NN=NN1.O.O=C(C(F)(F)F)[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6503,"CC[C:1](OC)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8717,"CCCCC(C(OC1=CC=CC=C1)C(=O)[O-:1])[O+:2](P(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N(NC(=O)OCC)C(=O)OCC)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4227,"CC[S+](C1=CC=CC=C1)[O-:1].O=C(O[C:2](C(F)(F)F)=[O:3])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8939,"CC(=O)O.O=C(CC[C:1](C1=CC=CC=C1)=[O:2])C1=CC=CO1.O=C(O)C[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4567,"CO.COC1=C([NH3+])C=CC([C:1](OC)([OH2+:2])[OH:3])=C1.O=S(=O)([O-])O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5488,"CC(C)(C)[O-:1].Cl[C:2](Cl)(Cl)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2351,"C=CC(=O)O[C:1](C)=[O:2].C[C:3](=[CH2:4])[N:5]1CCCC1|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4791,"CCC[C:1](C(C)C)=[O+:2][Mg-:3]([Cl])[CH:4](C)[CH2:5][H:6]|((3, 4), 5);((5, 6), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8503,"C1CC[CH:1]([OH2+:2])[O:3]C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3899,"CO[C:1]1=[C:2](Br)[CH:3]=[CH:4]C=C1.O=[N+:5]=[O:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,6593,"CNC(=O)C(CC1=CC=C(O)C=C1)NC(C)=O.ClC[N+]12CC[N+:1]([F:2])(CC1)CC2.F[B-](F)(F)F.[I-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8599,"CC1=CC=C(S(=O)(=O)[O-])C=C1.N#CC1=CC(OC2=C(F)C(CO)=CC=C2Br)=CC([CH:1]2[O:2]CC[OH+:3]2)=C1.O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2371,"C#CC[O:1][H:2].CC(C)[N-:3]C(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8806,"CC(=O)O.CC(=O)O[I+:1]1([O:2][CH:3](C(=CC=C(CO)SCC[Si](C)(C)C)SCC[Si](C)(C)C)[H:4])OC(=O)C2=C1C=CC=C2.CC(=O)[O-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5547,"CC(C)[O-].CC(C)[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,9697,"COC12C=CC(CC1)CC2(C1=CC2=C(C=C1)C=CC1=C2C=CC=C1)[O-:1].[Br][Mg+:2]|(1, 2)"
train,pmechdb_split_0,0,456,"C1OC1C[OH:1].OC[CH:2]1C[OH+:3]1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2430,"CC(=O)[O-:1].CC1=C[CH:2]([H:3])[C:4](C)=[N+:5]1C1=NC(Br)=CC=C1.O|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6289,"ClC1=NC(Cl)([OH+:1][H:2])[N-]C(Cl)=N1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9926,"O=[N+:1]=[O:2].O[C:3]1=[CH:4]C=CC=C1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5716,"C1=CC=CC=C1.C1C[NH:1]CCO1.[O-]C1([N+:2]2([H:3])CCOCC2)CCCC1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10140,"CO[P:1](=O)(OC)C(=[N+]=[N-])C(C)(C)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,3549,"C=CC(C)C(C(C)C(CCCCCCC)OC(=O)C(COCC1=CC=CC=C1)NC(=O)OC(C)(C)C)[O:1][B-]1(O)OC(C(=O)OC(C)C)C(C(=O)OC(C)C)O1.[H:2][OH:3].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4559,"CC(C)[C:1]1([H:2])C=C(S(=O)(=O)O)O[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,10150,"C[O+:1](C)[Si-:2](C)(C)(C)Cl|((2, 1), 1)"
train,pmechdb_split_0,0,8347,"C1=NN=N[N:1]1[H:2].CC1=CN(C2CC(O)C(C)O2)C(=O)NC1=O.CC1=CN(C2CC(O[P:3](OCCC#N)N(C(C)C)C(C)C)C(COC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C(=O)NC1=O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3997,"O[O-:1].[CH2:2]=[CH:3][CH:4]=[O:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1628,"CC1(C)C=CC(=O)C(C)(CC2C(C)([Si](C)(C)C)[O:1]2)C1.O=C(C1=CC=CC(Cl)=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9644,"CS(=O)(=O)O[Si:1](C)(C)C.C[O:2]C|(2, 1)"
train,pmechdb_split_0,0,8753,"CC(C)C(CBr)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2506,"C=C(Br)CC1(CCC[C:1](O)([H:2])[C:3]2=[N+:4](C3=C(F)C(F)=C(F)C(F)=C3F)N=C3CCCN32)C=CC(=O)C=C1.CC[N:5](CC)CC.F[B-](F)(F)F|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8095,"CC(=O)[O-:1].CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1CCC2C3CC([O+:2](C)[H:3])C45CC4CCC5(C)C3CCC12C.[K+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9934,"CO[C:1]1=[CH:2]C=CC([N+](=O)[O-])=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8714,"CS[C:1](C)=[OH+:2].C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2575,"CC[O:1][B-](F)(F)F.C[Si:2](C)(C)C[C+]=C(C1=CC=CC=C1)C1CCC(=O)N1|(1, 2)"
train,pmechdb_split_0,0,7789,"C1=CC=[NH+]C=C1.CC=[S:1](C1=CC=CC=C1)[O:2]C(=O)C(F)(F)F|((1, 2), 2)"
train,pmechdb_split_0,0,1855,"CC(=O)OCC1C(OC(C)=O)C(OC(C)=O)C(OC(C)=O)[CH:1]=[O+:2]1.CCO.COC1=CC=C([O:3][K])C=C1.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9866,"CC(=O)O[C:1](CCC=O)=[O:2].C[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,363,"CO[C:1]([CH:2](C(=O)OCC1=CC=CC=C1)[H:3])=[O:4].[Li][O:5][C:6](OCC1=CC=CC=C1)=[CH:7]C(=O)OC|(5, 6);((6, 7), 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,4375,"[CH3][Mg-]([Br])[P:1](C)(Cl)(Cl)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,8570,"CC1=CCC(CCC2=CC=CC=C2)([O-:1])N1.CO.O.[H:2][NH3+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4701,"CC[N:1](C)CC.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5635,"O[O-:1].[Na][O][C:2]([CH:3]=[CH2:4])=[O:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
